US05272221
The same procedure as in Preparation Example 3 was effected except that 1441 g (10 mols) of L-lactide, 1140 g (10 mols) of ε-caprolactone and 10 ml of a toluene solution containing 0.26 g of stannous octoate, and 5 g of lauryl alcohol were used and that reaction was carried out at 160° C. for 10 hours, thereby obtaining a lactic acid-hydroxycaproic acid copolymer (hereinafter referred to as "PCLA1").

reactant | L-lactide | 10 mols, 1441 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | ε-caprolactone | 10 mols, 1140 g | C1(CCCCCO1)=O | C6H10O2
reactant | stannous octoate | 0.26 g | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | lauryl alcohol | 5 g | C(CCCCCCCCCCC)O | C12H26O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | lactic acid hydroxycaproic acid | C(C(O)C)(=O)O.OC(C(=O)O)CCCC | InChI=1S/C6H12O3.C3H6O3/c1-2-3-4-5(7)6(8)9;1-2(4)3(5)6/h5,7H,2-4H2,1H3,(H,8,9);2,4H,1H3,(H,5,6)
